US04421758
(b) 1-{4-(4-Chlorophenyl)-trans-2-[6-(2,4-dichlorophenoxymethyl)tetrahydropyran-2-yloxy]butyl}imidazole
A solution of 90 mg of imidazole and 58 mg of 55% sodium hydride in 2 ml of dimethylformamide was stirred at 80° C. for 30 minutes and then left to cool to room temperature. 2 ml of a dimethylformamide solution containing 420 mg of trans-6-(2,4-dichlorophenoxymethyl)-2-[1-chloro-4-(4-chlorophenyl)-2-butoxy]tetrahydropyran and 132 mg of sodium iodide were then added to the mixture and stirring was continued at 90° C. for 4 hours. The mixture was then treated and the product purified essentially as described in Example 34(b)(i), to give 193 mg of the title compound as a colourless oil containing approximately B 1:1 mixture of isomers.

reactant | imidazole | 90 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 58 mg | [H-].[Na+]
reactant | trans-6-(2,4-dichlorophenoxymethyl)-2-[1-chloro-4-(4-chlorophenyl)-2-butoxy]tetrahydropyran | 420 mg | ClC1=C(OC[C@H]2CCC[C@@H](O2)OC(CCl)CCC2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C22H24Cl4O3
reactant | sodium iodide | 132 mg | [I-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-{4-(4-Chlorophenyl)-trans-2-[6-(2,4-dichlorophenoxymethyl)tetrahydropyran-2-yloxy]butyl}imidazole | 193 mg | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)O[C@@H]1O[C@H](CCC1)COC1=C(C=C(C=C1)Cl)Cl | C25H27Cl3N2O3
